US06579872B1
N-{5-[3-(N-methylmethanesulphonylamino)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide
A solution of N-[5-(3-methanesulphonylaminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide (0.3 g) in DMF (5 ml) was added portionwise to a stirred mixture of sodium hydride (0.025 g) in DMF (5 ml). The resultant mixture was stirred at ambient temperature for 40 minutes. Methyl iodide (0.088 g) was added and the mixture was stirred at ambient temperature for 3 hours. The mixture was poured into water (150 ml). The resultant precipitate was isolated, washed in turn with water and diethyl ether and dried under vacuum at 60° C. There was thus obtained the title compound (0.18 g); m.p. 168-169° C.; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.99 (s, 3H), 3.82 (s, 6H), 7.07 (d, 1H), 7.21 (d, 1H), 7.59 (m, 5H), 7.79 (s, 1H), 7.87 (d, 1H), 7.93 (s, 1H), 9.75 (br s, 1H), 10.25 (br s, 1H); Mass Spectrum: M+H+ 498.

reactant | N-[5-(3-methanesulphonylaminobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide | 0.3 g | CS(=O)(=O)NC=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=CC1 | C24H25N3O6S
reactant | sodium hydride | 0.025 g | [H-].[Na+]
reactant | Methyl iodide | 0.088 g | CI | CH3I
reactant | water | 150 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-{5-[3-(N-methylmethanesulphonylamino)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=CC1)S(=O)(=O)C | C25H27N3O6S
